US05464781
A mixture of methyl 5-(4-methoxyanilino)-1,8-naphthyridine-2-carboxylate (1.0 g) and dry THF (100 ml) was stirred at 0° C. while lithium triethylborohydride (a 1M solution in THF, 6.5 ml) was added over 10 minutes. After stirring at 0° C. for 1 hour further lithium triethylborohydride solution (3 ml) was added. The mixture was stirred for a further 1.5 hours at 0° C. Water (100 ml) was added cautiously and the mixture was extracted with ethyl acetate. The ethyl acetate extract was extracted with 0.5M hydrochloric acid. The acid extract was washed with ethyl acetate, basified with sodium bicarbonate and extracted with dichloromethane:methanol (3:1) (2×200 ml) to give a residue which was triturated with methanol and filtered. The solid obtained was triturated with ethyl acetate and filtered to give 5-(4-methoxyanilino)-1,8-naphthyridin-2-ylmethanol, m.p. 275°-281° C.

reactant | methyl 5-(4-methoxyanilino)-1,8-naphthyridine-2-carboxylate | 1.0 g | COC1=CC=C(NC2=C3C=CC(=NC3=NC=C2)C(=O)OC)C=C1 | C17H15N3O3
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | lithium triethylborohydride | 3 ml | C(C)[BH-](CC)CC.[Li+]
reactant | Water | 100 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-(4-methoxyanilino)-1,8-naphthyridin-2-ylmethanol | COC1=CC=C(NC2=C3C=CC(=NC3=NC=C2)CO)C=C1 | C16H15N3O2
